US08071768B2
b. 4-Quinazolin-4-yl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester
A mixture of 4-chloroquinazoline (2.02 g, 12.3 mmol), prepared as described in the preceding step, and piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (3.13 g, 12.8 mmol), as prepared in Example 1b, was treated with 1.08 M LiHMDS/THF in one portion by syringe at 0° C. with stirring under argon. After stirring for an additional 5 min at 0° C., the ice bath was removed and the homogeneous amber solution was stirred at rt for 4.5 h. The reaction was quenched with 1 M NaH2PO4 (30 mL) and extracted with DCM (2×30 mL). The organic layers were combined, dried (Na2SO4), and concentrated under reduced pressure to give the crude title compound as a clear amber syrup (4.98 g). 1H-NMR (300 MHz, CDCl3) δ 9.29 (s, 1H), 8.06 (m, 2H), 7.87 (m, 1H), 7.59 (m, 1H), 3.72-3.52 (m, 4H), 3.60 (s, 3H), 2.50-2.40 (br m, 4H), 1.46 (s, 9H). LC/MS (ESI): calcd mass 371.2, found 372.2 (MH)+.

reactant | 4-chloroquinazoline | 12.3 mmol, 2.02 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 12.8 mmol, 3.13 g | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | LiHMDS THF | 1.08 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
product | 4-Quinazolin-4-yl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 4.98 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC=CC=C12 | C20H25N3O4
